US07288571B2
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-5-dimethylamino-1-naphthalene-sulphonamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with 5-dimethylamino-1-naphthalenesulphonamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 8 mg (34%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 5-dimethylamino-1-naphthalenesulphonamide | 0.175 mmol | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N)C | C12H14N2O2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-5-dimethylamino-1-naphthalene-sulphonamide | 8 mg, 34% | BrC=1C=C(C(=O)C2=C(C3=CC=CC(=C3C=C2)N(C)C)S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C28H26Br2N2O5S
